US07053212B2
Step B: 3-{4-[[3-(Tetrahydro-pyran-2-yloxy)-benzyl]-(2,4,6-trimethyl-benzenesulfonyl)-amino]-phenyl}-acrylic acid
To a solution of 3-{4-[[3-(tetrahydro-pyran-2-yloxy)-benzyl]-(2,4,6-trimethyl-benzenesulfonyl)-amino]-phenyl}-acrylic acid methyl ester (1.83 g, 3.33 mmol) in 4 mL tetrahydrofuran was added sodium hydroxide (0.399 g, 9.98 mmol) in 3 mL water. The reaction mixture was stirred at room temperature overnight. The reaction mixture was adjusted to a pH of 4 with 1 N HCl and ethyl acetate and water were added. The layers were separated and the organic layer was washed with two portions of water and then with saturated aqueous sodium chloride. The combined aqueous layers were back-extracted with ethyl acetate. The combined organic layers were dried (magnesium sulfate) and concentrated to afford 1.756 g (98%) of the title compound. MS 534.3 (M−1)−

reactant | 3-{4-[[3-(tetrahydro-pyran-2-yloxy)-benzyl]-(2,4,6-trimethyl-benzenesulfonyl)-amino]-phenyl}-acrylic acid methyl ester | 3.33 mmol, 1.83 g | COC(C=CC1=CC=C(C=C1)N(S(=O)(=O)C1=C(C=C(C=C1C)C)C)CC1=CC(=CC=C1)OC1OCCCC1)=O | C31H35NO6S
reactant | sodium hydroxide | 9.98 mmol, 0.399 g | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | water | 3 mL | O | H2O
product | 3-{4-[[3-(Tetrahydro-pyran-2-yloxy)-benzyl]-(2,4,6-trimethyl-benzenesulfonyl)-amino]-phenyl}-acrylic acid | 1.756 g, 98% | O1C(CCCC1)OC=1C=C(CN(C2=CC=C(C=C2)C=CC(=O)O)S(=O)(=O)C2=C(C=C(C=C2C)C)C)C=CC1 | C30H33NO6S
